US04873224
2-(4-Nitrophenoxycarbonylamino)thiazole
A solution of 4-nitrophenyl chloroformate, 5.04 g (25 mMole), in 25 ml of dry ethyl acetate was added dropwise to an ice cooled, stirred solution of 2-aminothiazole, 5.01 g (50 mMole) in dry ethyl acetate, 25 ml, and dry pyridine, 50 ml. The ice bath was removed as the reaction mixture became viscous. Stirring was continued at 22° C. for three hours. Ethyl acetate was added. The insolubles were filtered, rinsed with ethyl acetate, with water, with acetone, dried and recrystallized from acetone furnishing 3.55 g of 2-(4-nitrophenoxycarbonyl)aminothiazole, m.p 211°-212° C. dec, which was characterized by nuclear magnetic resonance, mass spectra, infrared spectra and elemental analyses.

reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-Nitrophenoxycarbonylamino)thiazole | [N+](=O)([O-])C1=CC=C(OC(=O)NC=2SC=CN2)C=C1 | C10H7N3O4S
